US04665203
ethyl 3-(3,4-dihydro-7-hydroxy-8-propyl-2H-1-benzopyran-2-yl)propanoate
A solution of 2.0 g (5.1 mmole) ethyl 3-(4-oxo-7-phenylmethoxy-8-propyl-4H-1-benzopyran-2-yl)-2-propenoate in 40 ml of acetic acid was hydrogenated at 50 psi and 70° over 5% palladium on carbon catalyst. The catalyst was removed by filtration and the filtrate was evaporated to dryness to give 1.3 g of the title compound as an oil. Structure assignment was supported by nmr and infrared spectra.

reactant | ethyl 3-(4-oxo-7-phenylmethoxy-8-propyl-4H-1-benzopyran-2-yl)-2-propenoate | 5.1 mmole, 2.0 g | O=C1C=C(OC2=C1C=CC(=C2CCC)OCC2=CC=CC=C2)C=CC(=O)OCC | C24H24O5
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | [Pd] | Pd
product | ethyl 3-(3,4-dihydro-7-hydroxy-8-propyl-2H-1-benzopyran-2-yl)propanoate | 1.3 g | OC1=C(C2=C(CCC(O2)CCC(=O)OCC)C=C1)CCC | C17H24O4
